US05536725
A suspension of 2.5 grams (0.005 mole) of 2,4-di[(1,1-dimethylethyl)carbonylamino]-6-(3,5-dichlorophenoxyimino)-5,6,7,8-tetrahydroquinazoline in 40 mL of tetrahydrofuran is stirred, and a methanolic solution saturated with hydrogen chloride is added portionwise until a clear solution is obtained. After this time about 2 mL of water is added, and the reaction mixture is heated to reflux where it is stirred for about 4 hours. The reaction mixture is then cooled to ambient temperature and is washed with acetone. The reaction mixture is concentrated under reduced pressure, yielding 2,4-diamino-6-(3,5-dichlorophenoxyimino)-5,6,7,8-tetrahydroquinazoline.

reactant | 2,4-di[(1,1-dimethylethyl)carbonylamino]-6-(3,5-dichlorophenoxyimino)-5,6,7,8-tetrahydroquinazoline | 0.005 mole, 2.5 grams | CC(C)(C)C(=O)NC1=NC=2CCC(CC2C(=N1)NC(=O)C(C)(C)C)=NOC1=CC(=CC(=C1)Cl)Cl | C24H29Cl2N5O3
reactant | hydrogen chloride | Cl | ClH
reactant | water | about 2 mL | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2,4-diamino-6-(3,5-dichlorophenoxyimino)-5,6,7,8-tetrahydroquinazoline | NC1=NC=2CCC(CC2C(=N1)N)=NOC1=CC(=CC(=C1)Cl)Cl | C14H13Cl2N5O
